US07238716B2
To a mixture of [5-(5-methyl-2-phenyl-4-oxazolyl)methoxy-3-pyridyl]methanol (1.50 g), methyl 2-(2-hydroxyphenyl)acetate (0.76 g), triphenylphosphine (1.44 g) and tetrahydrofuran (50 mL) was dropwise added a solution (40%, 2.39 g) of diethyl azodicarboxylate in toluene at room temperature, and the mixture was stirred for 15 hrs. The reaction mixture was concentrated and the residue was subjected to silica gel column chromatography to give crude crystals from a fraction eluted with ethyl acetate-hexane (1:1, v/v) which crude crystals were further subjected to silica gel column chromatography to give crystals (1.24 g, 61%) of methyl 2-[2-[[5-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]-3-pyridyl]methoxy]phenyl]acetate from a fraction eluted with tetrahydrofuran-hexane (3:2, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 77-78° C.

reactant | [5-(5-methyl-2-phenyl-4-oxazolyl)methoxy-3-pyridyl]methanol | 1.50 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(C=NC1)CO | C17H16N2O3
reactant | methyl 2-(2-hydroxyphenyl)acetate | 0.76 g | OC1=C(C=CC=C1)CC(=O)OC | C9H10O3
reactant | triphenylphosphine | 1.44 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 2.39 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | methyl 2-[2-[[5-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]-3-pyridyl]methoxy]phenyl]acetate | 1.24 g, 61% | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(C=NC1)COC1=C(C=CC=C1)CC(=O)OC | C26H24N2O5
